US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(4′-fluoro-1,1′-biphenyl-3-yl)acetamide Hydrochloride
22.1 mg (0.16 mmol) of 4-fluorophenylboronic acid, 0.17 ml (0.34 mmol) of 2M aqueous sodium carbonate solution and 5.8 mg (0.01 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride are added to a solution of 75 mg (0.16 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride in 1 ml of DMF. The reaction mixture is stirred at 80° C. overnight. A further 22.1 mg (0.16 mmol) of 4-fluorophenylboronic acid, 23.2 mg (0.03 mmol) of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride and 0.48 ml (0.48 mmol) of 1M sodium hydroxide solution are added. The mixture is then heated at 80° C. for a further 12 h. After the reaction is complete, the mixture is cooled, filtered through silica gel and then purified by preparative HPLC. The product fractions are concentrated, taken up in methanol, mixed with 4M HCl in dioxane and again concentrated. Drying under high vacuum results in 49.6 mg (83.4% of theory) of the title compound.

reactant | 4-fluorophenylboronic acid | 0.16 mmol, 22.1 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 0.34 mmol, 2M, 0.17 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(3-bromophenyl)acetamide hydrochloride | 0.16 mmol, 75 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC(=CC=C2)Br
reactant | 4-fluorophenylboronic acid | 0.16 mmol, 22.1 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium hydroxide | 0.48 mmol, 1M, 0.48 ml | [OH-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.01 mmol, 5.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 0.03 mmol, 23.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(4′-fluoro-1,1′-biphenyl-3-yl)acetamide Hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC=2C=C(C=CC2)C2=CC=C(C=C2)F | InChI=1S/C21H23FN2O.ClH/c22-19-6-4-15(5-7-19)17-2-1-3-20(12-17)23-21(25)13-18-14-24-10-8-16(18)9-11-24;/h1-7,12,16,18H,8-11,13-14H2,(H,23,25);1H
